### PR TITLE
[Merged by Bors] - feat: Invariance of `meromorphic in normal form` under composition.

### PR DESCRIPTION
**Pull request by kebekus**
Establish invariance of `meromorphic in normal form` under composition with analytic functions of non-vanishing derivative.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by themathqueen** [comment]
Can you also show the analog of this [MeromorphicAt.comp_analyticAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Meromorphic/Basic.html#MeromorphicAt.comp_analyticAt) for normal-forms?

**Comment by kebekus** [comment]
@themathqueen Will do. Give me a day or two.

**Comment by kebekus** [comment]
@themathqueen Implemented as suggested. Thanks for the help.

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 1]
```diff
@@ -367,6 +367,50 @@ theorem MeromorphicNFOn.div {f : 𝕜 → 𝕜} {g : 𝕜 → 𝕜} {x : 𝕜} (
...
+    MeromorphicNFAt (f ∘ g) x := by
+  rcases hf with hf | ⟨n, q, hq_an, hq_ne, hf⟩
+  · exact Or.inl (hg.continuousAt.tendsto.eventually hf)
+  by_cases hord : analyticOrderAt (g · - g x) x = ⊤
+  · rw [analyticOrderAt_eq_top] at hord
+    by_cases h : f (g x) = 0
+    · apply Or.inl
+      filter_upwards [hord, hg.continuousAt.preimage_mem_nhds (hf.filter_mono (by simp))]
+        with a h₁a h₂a
+      simp_all [sub_eq_zero]
```
Comment (themathqueen) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]:
```suggestion
        using by simp_all [sub_eq_zero]
```

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 2]
```diff
@@ -367,6 +367,50 @@ theorem MeromorphicNFOn.div {f : 𝕜 → 𝕜} {g : 𝕜 → 𝕜} {x : 𝕜} (
...
+    · apply Or.inr
+      use 0, fun _ ↦ f (g x), by fun_prop, h
+      filter_upwards [hord, hg.continuousAt.preimage_mem_nhds (hf.filter_mono (by simp))]
+        with a h₁a h₂a
+      simp_all [sub_eq_zero]
```
Comment (themathqueen) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]:
```suggestion
    · refine Or.inr ⟨0, fun _ ↦ f (g x), by fun_prop, h, ?_⟩
      filter_upwards [hord, hg.continuousAt.preimage_mem_nhds (hf.filter_mono (by simp))]
        using by simp_all [sub_eq_zero]
```

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 3]
```diff
@@ -367,6 +367,50 @@ theorem MeromorphicNFOn.div {f : 𝕜 → 𝕜} {g : 𝕜 → 𝕜} {x : 𝕜} (
...
+  lift (analyticOrderAt (g · - g x) x) to ℕ using hord with m hm
+  obtain ⟨p, h₁p, h₂p, h₃p⟩ := (AnalyticAt.analyticOrderAt_eq_natCast (by fun_prop)).1 hm.symm
+  apply Or.inr
+  use n * m, fun z ↦ (p z) ^ n • q (g z), (h₁p.zpow h₂p).smul (by fun_prop)
```
Comment (themathqueen) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]:
```suggestion
  refine Or.inr ⟨n * m, fun z ↦ (p z) ^ n • q (g z), (h₁p.zpow h₂p).smul (by fun_prop), ?_⟩
```

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 4]
```diff
@@ -367,6 +367,50 @@ theorem MeromorphicNFOn.div {f : 𝕜 → 𝕜} {g : 𝕜 → 𝕜} {x : 𝕜} (
...
+    · apply Or.inl
+      filter_upwards [hord, hg.continuousAt.preimage_mem_nhds (hf.filter_mono (by simp))]
+        with a h₁a h₂a
+      simp_all [sub_eq_zero]
+    · apply Or.inr
+      use 0, fun _ ↦ f (g x), by fun_prop, h
+      filter_upwards [hord, hg.continuousAt.preimage_mem_nhds (hf.filter_mono (by simp))]
+        with a h₁a h₂a
+      simp_all [sub_eq_zero]
+  lift (analyticOrderAt (g · - g x) x) to ℕ using hord with m hm
```
Comment (themathqueen) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]: don't think you need the parentheses here
```suggestion
  lift analyticOrderAt (g · - g x) x to ℕ using hord with m hm
```

**Comment by kebekus** [comment]
@themathqueen Implemented all suggestions. Thanks.

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 5]
```diff
@@ -367,6 +367,46 @@ theorem MeromorphicNFOn.div {f : 𝕜 → 𝕜} {g : 𝕜 → 𝕜} {x : 𝕜} (
     rwa [← meromorphicNFAt_mul_iff_left hgInvAnalytic (inv_ne_zero hgne)] at hf
   · grind [meromorphicNFAt_mul_iff_right, hg.inv]
 
+/--
+If `f` is meromorphic in normal form and `g` is analytic, then `f ∘ g` is meromorphic in normal
+form.
```
Comment (themathqueen) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]: how about

```suggestion
The composition of a meromorphic function in normal form and an analytic
function is meromorphic in normal form.
```

**Review by themathqueen — APPROVED** [review]
Thanks! Looks good to me.

maintainer delegate

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 6]
```diff
@@ -367,6 +367,46 @@ theorem MeromorphicNFOn.div {f : 𝕜 → 𝕜} {g : 𝕜 → 𝕜} {x : 𝕜} (
...
+-/
+theorem MeromorphicNFAt.comp_analyticAt (hf : MeromorphicNFAt f (g x)) (hg : AnalyticAt 𝕜 g x) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean:376]: Hmm, the [MeromorphicAt.comp_analyticAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Meromorphic/Basic.html#MeromorphicAt.comp_analyticAt) version is a `fun_prop`, should this also be a `fun_prop`?

**Comment by kebekus** [comment]
@themathqueen @sgouezel Thanks!
